US09216964B2
To a round bottom flask is added 2-chloro-3,5-difluoropyridine (1.5 g, 10 mmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (2.2 g, 10 mmol), Pd(PPh3)4 (300 mg, 0.26 mmol), toluene (60 mL), ethanol (20 mL) and 2M Na2CO3 (20 mL, 40 mmol). The reaction is stirred under reflux condition for 15 hours. After cooling, the reaction mixture is diluted with ethyl acetate, washed with brine and dried over Na2SO4. The organic phase is then dried by rotary evaporation. The crude product is purified by silica gel flash chromatography to afford 3-(3,5-difluoropyridin-2-yl)-4-methylaniline as a light brown solid. MS m/z 221.1 (M+1).

reactant | 2-chloro-3,5-difluoropyridine | 10 mmol, 1.5 g | ClC1=NC=C(C=C1F)F | C5H2ClF2N
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 10 mmol, 2.2 g | CC1=C(C=C(N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 40 mmol, 2M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.26 mmol, 300 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(3,5-difluoropyridin-2-yl)-4-methylaniline | FC=1C(=NC=C(C1)F)C=1C=C(N)C=CC1C | C12H10F2N2
